US04831151
2.24 g (15 mmol) of p-dimethylaminobenzaldehyde are added to a solution of 2.22 g (15 mmol) of 1-amino-2-ethylimidazole hydrochloride in 40 ml of glacial acetic acid. After leaving to stand at room temperature for 24 hours the product is crystallized out by the addition of ether and subsequently recrystallized from ethanol/ether. There is obtained 1-[[p-(dimethylamino)benzylidene]amino]-2-ethylimidazole hydrochloride of melting point 226°-228°.

reactant | p-dimethylaminobenzaldehyde | 15 mmol, 2.24 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | 1-amino-2-ethylimidazole hydrochloride | 15 mmol, 2.22 g | Cl.NN1C(=NC=C1)CC
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 1-[[p-(dimethylamino)benzylidene]amino]-2-ethylimidazole hydrochloride | Cl.CN(C1=CC=C(C=NN2C(=NC=C2)CC)C=C1)C | InChI=1S/C14H18N4.ClH/c1-4-14-15-9-10-18(14)16-11-12-5-7-13(8-6-12)17(2)3;/h5-11H,4H2,1-3H3;1H
